US05952386
Then, 35.6 g of 4-bromo-2-ethyl-6-methyl-1-benzyloxybenzene was dissolved in 250 ml of tetrahydrofuran, and 69 ml of n-butyl lithium solution (in hexane; 1.69 mol/liter), while stirring at -70° C. After further stirring at -70° C. for 2 hours, a solution of 12.1 g of trimethoxyboron dissolved in 50 ml of tetrahydrofuran was added dropwise to the reaction mixture. After completion of the dropwise addition, the reaction mixture was returned to room temperature, stirred for 1 hour, and then poured into ice water. The mixture was made weak acidic by the addition of 10% hydrochloric acid, and extracted twice with 500 ml of diethyl ether. The ether layers was combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated to give a residue. To the residue was added 120 ml of toluene, and 33 ml of 30% aqueous hydrogen peroxide was added dropwise, while heating at 70° C. under stirring. After heating under reflux for 1 hours, the reaction mixture was returned to room temperature, washed once with water, twice with 10% aqueous ferrous ammonium sulfate and then once with water. The toluene layer was dried over anhydrous magnesium sulfate, and then concentrated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 26.2 g of 3-ethyl-4-benzyloxy-5-methylphenol (93% yield).

reactant | 4-bromo-2-ethyl-6-methyl-1-benzyloxybenzene | 35.6 g | BrC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)CC | C16H17BrO
reactant | n-butyl lithium | 1.69 mol/liter, 69 ml | C(CCC)[Li]
reactant | trimethoxyboron | 12.1 g | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen peroxide | 33 ml | OO | H2O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 3-ethyl-4-benzyloxy-5-methylphenol | 26.2 g, 93% yield | C(C)C=1C=C(C=C(C1OCC1=CC=CC=C1)C)O | C16H18O2
